US05223529
Working in a manner similar to that described in Example 1, but starting with tert-butyl 2-(2-amino-N-phenylacetamido)acetate (1.25 g) and 3-methylphenyl isocyanate (0.63 g), and after recrystallization in acetonitrile, tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate (0.8 g), m.p. 180° C., is obtained.

reactant | tert-butyl 2-(2-amino-N-phenylacetamido)acetate | 1.25 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)OC(C)(C)C | C14H20N2O3
reactant | 3-methylphenyl isocyanate | 0.63 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 0.8 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C22H27N3O4
